US06355633B1
2-Methyl-5-nitro-benzenesulfonic Acid, 2.2-Dimethylpropyl Ester
Neopentyl alcohol (0.75 g, 8.50 mmol) was added to a solution of commercially available 2-methyl-5-nitro-benzenesulfonyl chloride (1.00 g, 4.20 mmol), pyridine (1.72 mL, 21.2 mmol and anhydrous dioxane (40 mL). A water cooled condenser was attached and the material was heated to reflux. After stirring for two days the mixture was cooled to room temperature and diluted with ethyl acetate (350 mL). The organic layer was washed with water, then 1 N HCl solution, and finally brine. After drying with MgSO4 the solution was concentrated to afford 690 mg of the title compound as a yellow solid.(55%): 1HNMR (DMSO-6) δ8.57 (d, J=2 Hz, 1H), 8.51 (dd, J=8 Hz, 2 Hz, 1H), 7.85 (d, J=8 Hz, 1H), 3.78 (s, 2H), 2.70 (s, 3H), 0.88 (s, 9H); MS (EI): [M+] 287; Anal. Calc. for C12H17NO5S: C, 50.16; H, 5.96; N, 4.88. Found: C, 49.83; H, 5.69; N, 4.90.

reactant | Neopentyl alcohol | 8.50 mmol, 0.75 g | C(C(C)(C)C)O | C5H12O
reactant | 2-methyl-5-nitro-benzenesulfonyl chloride | 4.20 mmol, 1.00 g | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO4S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-5-nitro-benzenesulfonic Acid, 2.2-Dimethylpropyl Ester | 690 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)OCC(C)(C)C | C12H17NO5S
